US05817680
c) (4S, 5R)-4,5-Dihydro-5-methyl-2-(2-pyridinyl)oxazole-4-carboxylic acid
To a solution of (4S, 5R)-4-carboxymethyl-4,5-dihydro-5-methyl-2-(2-pyridinyl)oxazole (0.22 g, 1.00 mmol, obtained as above) in MeOH (2 mL) was added aq NaOH (44.0 mg, 1.10 mmol in 0.20 mL of H2O ). After 1 h at room temperature, the solvent was removed under reduced pressure. The residue was partitioned between EtOAc (5 mL) and 1N HCl (1 mL). The aqueous layer was extracted with further EtOAc (2×10 mL). the combined organic extracts were dried over MgSO4 and concentrated to give a white residue. Flash chromatography (2% to 10% MeOH/CHCl3 +1% AcOH, silica gel) gave 80.0 mg (39%) of the desired compound as a white solid.

reactant | (4S, 5R)-4-carboxymethyl-4,5-dihydro-5-methyl-2-(2-pyridinyl)oxazole | 1.00 mmol, 0.22 g | C(=O)(O)C[C@@H]1N=C(O[C@@H]1C)C1=NC=CC=C1 | C11H12N2O3
reactant | NaOH | 1.10 mmol, 0.20 mL, 44.0 mg | [OH-].[Na+]
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | MeOH | 2 mL | CO | CH4O
product | (4S, 5R)-4,5-Dihydro-5-methyl-2-(2-pyridinyl)oxazole-4-carboxylic acid | 80.0 mg, 39% | C[C@@H]1[C@H](N=C(O1)C1=NC=CC=C1)C(=O)O | C10H10N2O3
